US05087640
To a solution of 3.0 g of N-(3,5-dichlorophenyl)-N'-(1,1-dimethylbutyl)thiourea produced in Example A-3 in 50 ml of dichloromethane were added 5.2 g of triphenylphosphine, 3.1 g of carbon tetrachloride and 2.0 g of triethylamine. The mixture was refluxed for 6 hours, and then evaporated in vacuo. The residue was extracted with petroleum ether. The extract was evaporated in vacuo to give N-(3,5-dichlorophenyl)-N'-(1,1-dimethylbutyl)carbodiimide as an oil. To a solution of this oil in 20 ml of DMF were added 1.6 g of cyanamide and 0.1 ml of diisopropylethylamine. The mixture was stirred at 100° C. for 6 hours, cooled to room temperature and poured into 400 ml of water. The resulting crystals were filtered off, washed with small amount of cyclohexane, and purified by silica gel column chromatography using chloroform as a solvent to give 1.2 g of the title compound. Recrystallization from cyclohexane gave 1.1 g of colorless platelets melting at 115.0°-117.0° C.

reactant | N-(3,5-dichlorophenyl)-N'-(1,1-dimethylbutyl)thiourea | 3.0 g | ClC=1C=C(C=C(C1)Cl)NC(=S)NC(CCC)(C)C | C13H18Cl2N2S
reactant | triphenylphosphine | 5.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 3.1 g | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | triethylamine | 2.0 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-(3,5-dichlorophenyl)-N'-(1,1-dimethylbutyl)carbodiimide | ClC=1C=C(C=C(C1)Cl)N=C=NC(CCC)(C)C | C13H16Cl2N2
